US07745490B2
3-Hydroxy-4-methoxy-1-nitrobenzene was benzylated by refluxing with benzyl bromide with potassium carbonate as a base in acetone which on reduction with sodium dithionite gave 3-benzyloxy-4-methoxy aniline. 4-Hydroxy-3-methoxy benzoic acid was converted to its methyl ester by refluxing in methanol in presence of an acid. The hydroxyl was benzylated using benzyl bromide and potassium carbonate. The ester was hydrolyzed with sodium hydroxide to provide the acid. The aniline and acid were coupled using N,N-1,3-diisopropylcarbodiimide in presence of 1-hydroxybenzotriazole to provide the amide. Finally the benzyl group was removed by hydrogenation in presence of palladium on carbon.

reactant | 3-Hydroxy-4-methoxy-1-nitrobenzene | OC=1C=C(C=CC1OC)[N+](=O)[O-] | C7H7NO4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 3-benzyloxy-4-methoxy aniline | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1OC | C14H15NO2
